US07812019B2
2,2,2-Trichloro-N-quinolin-8-yl-acetamide
A solution of 8-aminoquinoline (2.88 g, 20 mmol) in dichloromethane (100 mL) was treated sequentially with triethylamine (3.1 mL, 2.23 g, 22 mmol) and trichloroacetyl chloride (2.5 mL, 4.0 g, 22 mmol). The reaction mixture was allowed to stir at ambient temperature for 16 hours, and the solvent removed under reduced pressure. The residue was taken into ethyl acetate, washed sequentially with water and saturated aqueous ammonium chloride. The isolated organic layers were dried with magnesium sulfate, filtered and the solvent removed under reduced pressure to give 5.79 g of the title compound (99% yield) which was used without further purification. 1H NMR (300 MHz, DMSO-d6) δ 11.18 (br s, 1H, NH), 9.00 (dd, 1H, J=4.4 and 1.7 Hz), 8.53 (m, 2H), 7.89 (d, 1H, 7.1 Hz), 7.73 (m, 2H). MS (ESI) m/e 289 (M+H)+.

reactant | 8-aminoquinoline | 20 mmol, 2.88 g | NC=1C=CC=C2C=CC=NC12 | C9H8N2
reactant | triethylamine | 22 mmol, 3.1 mL, 2.23 g | C(C)N(CC)CC | C6H15N
reactant | trichloroacetyl chloride | 22 mmol, 2.5 mL, 4.0 g | ClC(C(=O)Cl)(Cl)Cl | C2Cl4O
solvent | dichloromethane | 100 mL | ClCCl | CH2Cl2
product | 2,2,2-Trichloro-N-quinolin-8-yl-acetamide | 5.79 g, 99% yield | ClC(C(=O)NC=1C=CC=C2C=CC=NC12)(Cl)Cl | C11H7Cl3N2O
